US05218000
N-(4-Hydroxybenzoyl)-spermine
According to the General Procedure using 4-hydroxybenzoic acid (80 mg, 0.58 mMol), dicyclohexylcarbodiimide (125 mg, 0.61 mMol), and spermine (430 mg, 2.13 mMol) in DME/DMF (4 ml, 3:1), activation during 3 h and coupling over 48 h. The product was eluted over silica gel with dichloromethane/methanol/0.880 ammonia solution (2:2:1). The desired amide was in fractions 8-12 and was homogeneous when monitored by tic on silica (CH2Cl2 /MeOH/NH4OH, 2:2:1), Rf =0.29, (23 mg, 12%), lyophilisation gave 7 mg of a colourless, viscous oil whose spectroscopic data include: pmr (90 MHz, 2H2O) 1.4-1.9 (m, 8H, 4×CH2 --CH2), 2.5-2.9 (m, 10H, 5×CH2 --N), 3.25 (t, J=7, 2H, CON2H--CH2 --CH2) 6.6-6.9 (m, 2H, 2×ArH 3,5), and 7.0-7.3 (m, 2H, 2×ArH2,6)ppm; M+1 323 (FAB matrix m-nitrobenzyl alcohol) C17H30N4O2 requires M+ 322).

reactant | 4-hydroxybenzoic acid | 0.58 mMol, 80 mg | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | dicyclohexylcarbodiimide | 0.61 mMol, 125 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | spermine | 2.13 mMol, 430 mg | NCCCNCCCCNCCCN | C10H26N4
solvent | DME DMF | 4 ml | COCCOC.CN(C)C=O
product | N-(4-Hydroxybenzoyl)-spermine | OC1=CC=C(C(=O)NCCCNCCCCNCCCN)C=C1 | C17H30N4O2
